US06423246B1
276.6 g of 4-chlorobutyl acetate (1.8 mol) were added to a solution of 249 g of ethyl 4-hydroxybenzoate (1.5 mol), 3 g of potassium iodide (0.018 mol) and 248 g of potassium carbonate (1.8 mol) in 2 l of DMF, and the mixture was stirred at 90° C. for 11 hours. The reaction mixture was poured into 5 l of ice-water, and the precipitate was filtered off with suction and washed with 4 l of ice-water. The crude product was dissolved in 3 l of ethanol, potassium hydroxide (400 g) was added, and the mixture was refluxed for 3 hours. The reaction mixture was poured into 6 l of ice-water and acidified using concentrated hydrochloric acid, and the precipitate was filtered off. The precipitate was washed with water until neutral and then dried, giving 282.1 g of 4-(4′-hydroxybutoxy)benzoic acid (yield 89%). b) A solution of 282 g of 4-(4′-hydroxybutoxy)benzoic acid (1.34 mol), 230 ml of freshly distilled acrylic acid (3.35 mol), 0.3 g of 2,6-di-tert-butyl-4-(dimethylaminomethylene)phenol (Ethanox® 703) and 23.7 g of p-toluenesulfonic acid in 1.1 liter of 1,1,1-trichloroethane was refluxed for 10 hours on a water separator. The reaction mixture was cooled to 60° C.-70° C. and stirred into 2.5 l of petroleum ether, and the precipitate was filtered off. After washing with petroleum ether, the precipitate was dried for 24 hours at room temperature under reduced pressure, giving 223.7 g of 4-(4′-acryloxybutoxy)benzoic acid (yield 60%).

reactant | 4-(4′-hydroxybutoxy)benzoic acid | 1.34 mol, 282 g | OCCCCOC1=CC=C(C(=O)O)C=C1 | C11H14O4
reactant | acrylic acid | 3.35 mol | C(C=C)(=O)O | C3H4O2
reactant | p-toluenesulfonic acid | 23.7 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
solvent | 1,1,1-trichloroethane | 1.1 liter | ClC(C)(Cl)Cl | C2H3Cl3
catalyst | 2,6-di-tert-butyl-4-(dimethylaminomethylene)phenol | 0.3 g | C(C)(C)(C)C1=C(C(=CC(C1)=CN(C)C)C(C)(C)C)O | C17H29NO
product | 4-(4′-acryloxybutoxy)benzoic acid | 223.7 g, yield 60% | C(C=C)(=O)OCCCCOC1=CC=C(C(=O)O)C=C1 | C14H16O5
